*  74hcng_auto.lib - simplified wrapper for XSPICE NAND gate
*
*  derived from 74HCng_short_2.lib but using automatic D<->A bridges.
*  derived from 74HCxxx Model libraray for LTSPICE from www.linear.com/software
*
*  XSPICE gate models are used, with output to an analogue node.
*
*  Delays are given for Vcc = 2V/4.5V/6V (HC) from the
*  Philips data sheets. http://www.philipslogic.com
*
*  Delays are given for Vcc = 2V/4.5V/6V .
*  Used delay:  Td = (Tpd-Tr/2)*(4.5-0.5)/(Vcc-0.5)
*  The gate delay has to be set to tpd minus 3ns for the input filter
*  and another minus 3ns for Trise/2
*    td1 = tpd  - 3ns - 3ns
*

.param vcc=5 tripdt=6n

*
* 2-input NAND gate
* vcc 2 /4.5/5 /6
* tpd 25n/9n/7n/7n
* tr 19n/7n /  /6n
.SUBCKT 74HC00  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
.param Rload=10k ; The bidi bridge analogue port is type 'g' and needs load

a6 [in1 in2] dout nand1
.model nand1 d_nand(rise_delay = {td1} fall_delay = {td1}
+ input_load = 0.5e-12)
Rout dout out {Rout}
Rload dout 0 {Rload}
.ends
